US06353006B1
To a solution of 4-amino-3-ethylbenzonitrile, (75 g, 0.51 mol) in toluene (1 L) was added thiophosgene, (43 mL, 0.56 mol, 1.1 equiv.) slowly via syringe. Within 5 min. a viscous slurry formed. The reaction mixture was heated to the reflux temp. and the viscosity diminished. The reaction mixture was heated at the reflux temp. for 5 h then allowed to cool to room temp. The resulting mixture was concentrated under reduced pressure and the residue was treated with CH2Cl2 (600 mL) and concentrated under reduced pressure to give 4-cyano-2-ethylphenyl isothiocyanate as a light tan crystalline solid (98 g, 100%): 1H NMR (DMSO-d6) δ1.18 (t, J=7.4 Hz, 3H), 2.69 (q, J=7.4 Hz, 2H), 7.55 (d, J=7.0 Hz, 1H), 7.75 (d, J=7.0 Hz, 2H), 7.84 (s, 1H); MS (CI-MS) m/z 189 ((M+H)+).

reactant | 4-amino-3-ethylbenzonitrile | 0.51 mol, 75 g | NC1=C(C=C(C#N)C=C1)CC | C9H10N2
reactant | thiophosgene | 0.56 mol, 43 mL, 1.1 equiv. | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-2-ethylphenyl isothiocyanate | C(#N)C1=CC(=C(C=C1)N=C=S)CC | C10H8N2S
